US07060700B2
N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]quinoxaline-2-carboxamide
Triethylamine (0.28 ml) was added to a stirred mixture of N-(3-amino-4-methylphenyl)-3-dimethylaminobenzamide (0.27 g), 2-quinoxalinylcarbonyl chloride (0.29 g) and methylene chloride (10 ml) and the resultant mixture was stirred at ambient temperature for 16 hours. The reaction mixture was partitioned between methylene chloride and water. The organic phase was washed with a saturated aqueous solution of sodium bicarbonate and evaporated. The residue was triturated under ethyl acetate. There was thus obtained the title compound as a solid (0.175 g); NMR Spectrum: (DMSOd6) 2.31 (s, 3H), 2.95 (s, 6H), 3.31 (s, 3H), 6.91 (d, 1H) 7.27 (m, 4H), 7.59 (d, 1H), 8.01 (m, 2H), 8.24 (m, 3H), 9.56 (s, 1H), 10.15 (s, 1H), 10.42 (s, 1H); Mass Spectrum: M+H+426.

reactant | Triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | N-(3-amino-4-methylphenyl)-3-dimethylaminobenzamide | 0.27 g | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N(C)C)=O | C16H19N3O
reactant | 2-quinoxalinylcarbonyl chloride | 0.29 g | N1=C(C=NC2=CC=CC=C12)C(=O)Cl | C9H5ClN2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]quinoxaline-2-carboxamide | 0.175 g | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(=O)C2=NC3=CC=CC=C3N=C2)C)C=CC1)C | C25H23N5O2
